2196-08-07 04:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2196-8-6**] 09:05 AM
   sedation started at this time.
   2 gastric ulcers see one with visible vessel which was clipped
 CHEST PAIN - At [**2196-8-6**] 11:30 AM
   Pt with c/o [**9-30**] chest pressure which pt states is like the angina
   pain he experiences at home.  MDs in to evaluate and and EKG was
   obtainned.
 CHEST PAIN - At [**2196-8-6**] 11:30 PM
   pain [**8-31**] in right chest, burping several times, no radiation to jaw or
   arm, HO aware, maalox offered pt declined , morphine 1 mgm given, nitro
   paste renewed on schedule, relieve at 10 min with repositioning no
   nausea , no sob, lungs clear
   ECGs unchanged
   TRP leak [**1-23**] demand ischemia.
   Transfused 3U pRBC and 1U PLT. Post transfusion counts are P
   R shoulder pain. Trying lidocaine patch
   ? if R shoulder pain could in fact be cardiac
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-8-6**] 08:19 AM
   Midazolam (Versed) - [**2196-8-6**] 09:10 AM
   Fentanyl - [**2196-8-6**] 09:43 AM
   Morphine Sulfate - [**2196-8-6**] 12:07 PM
   Heparin Sodium (Prophylaxis) - [**2196-8-7**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-8-7**] 04:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 65 (59 - 81) bpm
   BP: 102/78(84) {102/30(50) - 166/86(103)} mmHg
   RR: 16 (8 - 26) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 64 Inch
           Total In:
                                                                  2,785 mL
                                                                    846 mL
   PO:
           TF:
   IVF:
                                                                  2,019 mL
                                                                    244 mL
   Blood products:
                                                                    766 mL
                                                                    602 mL
   Total out:
                                                                  2,500 mL
                                                                    250 mL
   Urine:
                                                                  2,200 mL
                                                                    250 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    285 mL
                                                                    596 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   49 K/uL
   10.3 g/dL
   241 mg/dL
   1.4 mg/dL
   27 mEq/L
   4.3 mEq/L
   47 mg/dL
   109 mEq/L
   142 mEq/L
   28.7 %
   4.6 K/uL
        [image002.jpg] Cr 1.4
 1.5
 1.6
   COMPLETE BLOOD COUNT
                                     WBC
                                     RBC
                                     Hgb
                                     Hct
                                     MCV
                                     MCH
                                    MCHC
                                     RDW
                                   Plt Ct
   [1][**2196-8-6**] 09:22PM
   28.7*
   49*
   Source: Line-PIV
   [2][**2196-8-6**] 03:08PM
   xfused
                                    29.6*
   55*
   [3][**2196-8-6**] 08:39AM
                                     4.6
                                    3.25*
                                    10.3*
                                    29.1*
                                     93
                                    31.7
                                    34.2
                                    16.6*
                                     64*
   [4][**2196-8-6**] 05:12AM
                                    3.8*
                                    3.19*
                                    10.5*
                                    30.0*
                                     94
                                    32.8*
                                    34.9
                                    16.9*
                                   69*[1]
   CPK ISOENZYMES
                                    CK-MB
                                   MB Indx
                                   cTropnT
   [5][**2196-8-6**] 09:22PM
                                 NotDone[1]
   0.22*[2]
   Source: Line-PIV
   [6][**2196-8-6**] 11:12AM
                                     12*
                                    10.4*
                                  0.16*[2]
   MODERATELY HEMOLYZED
   [7][**2196-8-6**] 05:12AM
   0.12*[3]
   [8][**2196-8-6**] 05:12AM
                                     10
                                    9.9*
                                  0.08*[2]
   [9][**2196-8-5**] 11:53PM
                                 NotDone[1]
   0.01[2]
   [10][**2196-8-5**] 09:00PM
   0.01[2]
                             [**2196-8-5**]  10:37 PM
                             [**2196-8-5**]  11:53 PM
                             [**2196-8-6**]  01:10 AM
                             [**2196-8-6**]  05:12 AM
                             [**2196-8-6**]  08:39 AM
                             [**2196-8-6**]  11:12 AM
                             [**2196-8-6**]  03:08 PM
                             [**2196-8-6**]  09:22 PM
   WBC
   3.8
   4.6
   Hct
   29
   26.9
   30.0
   29.1
   29.6
   28.7
   Plt
   69
   64
   55
   49
   Cr
   1.6
   1.5
   1.4
   TropT
   0.01
   0.08
   0.16
   0.22
   Glucose
   164
   241
   Other labs: CK / CKMB / Troponin-T:92/12/0.22, Albumin:3.2 g/dL,
   Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   This is a [**Age over 90 **] year old male, holocaust survivor with history of CAD with
   3VD s/p multiple PCIs with stenting to LAD and LMCA, HTN, DM II, RAS,
   PVD who presents to [**Hospital1 19**] ED from home after large episode of melena
   along with coffee ground emesis. On EGD found to have 2 ulcers, one
   with a bleeding vessel which was clipped. HCT/Hb has continued to fall.
   Plt have also dropped. Both are being actively transfused. TRP leak
   most likely [**1-23**] demand ischemia.
   # UGIB:  Mr. [**Known lastname 1138**] presents from home with melena and coffee ground
   emesis.  EGD showd 2 ulcers, one with a vessel which was clipped. S/P
   EGD HCT/Hb continued to fall and PLT dropped below 50. Both were
   transfused up.
   -          serial HCT q6h
   -          2 large bore IV
   -          BB for HR control as below
   -          Hold [**Last Name (LF) 131**], [**First Name3 (LF) **]
   # CAD:  Patient with chest pain on arrival, likely [**1-23**] to known
   angina.  Pain relieved with Nitro paste.  ECG changes noted on last ECG
   in system, unchanged.  CP recurred x 2, both without ECG changes. Pain
   seems related to ulcers and chronic shoulder pain
   -          Continue to trend troponins and CK-MB
   -          Nitro and MS PRN pain
   -          Transfuse for goal HCT > 30
   -          BB for goal HR 60-70
   -          Hold [**Month/Day (2) **], [**Month/Day (2) 131**] given UGIB
   # Shoulder pain: Pt with chronic R shoulder pain.
   - Trying lidocaine patch
   #  DMII
 Patient with history of DM.
   -          FSBG QID
   -          HISS
   #  PVD
 hold [**Month/Day (2) **], [**Month/Day (2) 131**] as above
   # HTN
 hold antihypertenisives.  BP WNL for now. Unclear which meds he
   takes
   -          contact home nurse regarding home meds
   # Hyperkalemia
 Patient with hyperkalemia on arrival,  possible [**1-23**]
   ACEi and hypovolemia
   -          cont to monitor
   -          Kayexalate x 1
   - Hold K wasting drugs
   # ARF
 Cr of 1.9 on admission, likely in setting of hypovolemia from
   UGIB, improved on arrival to ICU
   -          transfuse as above
   -          IVF boluses PRN
   - Improving with fluids
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   16 Gauge - [**2196-8-6**] 12:00 AM
   18 Gauge - [**2196-8-6**] 12:00 AM
   20 Gauge - [**2196-8-6**] 12:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI drip
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_19%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_20%22);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_21%22);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_22%22);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_23%22);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_24%22);

2196-08-08 06:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CHEST PAIN - At [**2196-8-7**] 02:00 PM
 EKG - At [**2196-8-7**] 08:00 AM
 EKG - At [**2196-8-7**] 02:00 PM
   given 0.3mg SL nitro with good effect.
   Troponins peaked at 0.22, will f/u
 CALLED OUT
   Per GI, switched to PO PPI [**Hospital1 7**], restarted ASA 325 mg, held plavix,
   restarted diet
   Obtained pharmacy records, restarted pertinent home meds (on Imdur,
   substituted Isosorbide dinitrite).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-8-7**] 08:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-8-8**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (98
   Tcurrent: 36.3
C (97.4
   HR: 63 (63 - 94) bpm
   BP: 109/41(59) {84/37(48) - 175/77(124)} mmHg
   RR: 14 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
                  Total In:
                                                                  2,686 mL
                                                                     60 mL
   PO:
                                                                  1,190 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    504 mL
   Blood products:
                                                                    977 mL
   Total out:
                                                                  1,125 mL
                                                                      0 mL
   Urine:
                                                                  1,125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,561 mL
                                                                     60 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   45 K/uL
   10.5 g/dL
   180 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.9 mEq/L
   18 mg/dL
   109 mEq/L
   142 mEq/L
   31.4 %
   2.2 K/uL
        [image002.jpg]
                             [**2196-8-5**]  11:53 PM
                             [**2196-8-6**]  01:10 AM
                             [**2196-8-6**]  05:12 AM
                             [**2196-8-6**]  08:39 AM
                             [**2196-8-6**]  11:12 AM
                             [**2196-8-6**]  03:08 PM
                             [**2196-8-6**]  09:22 PM
                             [**2196-8-7**]  08:50 AM
                             [**2196-8-7**]  03:55 PM
                             [**2196-8-8**]  02:21 AM
   WBC
   3.8
   4.6
   3.2
   2.7
   2.2
   Hct
   26.9
   30.0
   29.1
   29.6
   28.7
   33.3
   32.3
   31.4
   Plt
   69
   64
   55
   49
   63
   54
   45
   Cr
   1.6
   1.5
   1.4
   1.3
   1.1
   TropT
   0.01
   0.08
   0.16
   0.22
   0.18
   0.16
   Glucose
   164
   241
   168
   180
   Other labs: PT / PTT / INR:15.0/31.8/1.3, CK / CKMB /
   Troponin-T:67/7/0.16, ALT / AST:20/29, Alk Phos / T Bili:80/0.9,
   Albumin:3.2 g/dL, LDH:194 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   Assessment and Plan
   This is a [**Age over 90 **] year old male, holocaust survivor with history of CAD with
   3VD s/p multiple PCIs with stenting to LAD and LMCA, HTN, DM II, RAS,
   PVD who presents to [**Hospital1 19**] ED from home after large episode of melena
   along with coffee ground emesis. On EGD found to have 2 ulcers, one
   with a bleeding vessel which was clipped. HCT/Hb has continued to fall.
   Plt have also dropped. Both are being actively transfused. TRP leak
   most likely [**1-23**] demand ischemia.
   # UGIB:  Mr. [**Known lastname 1138**] presents from home with melena and coffee ground
   emesis.  EGD showd 2 ulcers, one with a vessel which was clipped. S/P
   EGD HCT/Hb continued to fall and PLT dropped below 50. Both were
   transfused up.
   -          serial HCT q6h
   -          2 large bore IV
   -          BB for HR control as below
   -          Hold plavix, restart ASA 325 mg per GI
   -          Switch PPI gtt to IV BID per GI
   # CAD:  Patient with chest pain on arrival, likely [**1-23**] to known
   angina.  Pain relieved with Nitro paste.  ECG changes noted on last ECG
   in system, unchanged.  CP recurred x 2, both without ECG changes. Pain
   seems related to ulcers and chronic shoulder pain
   -          Continue to trend troponins and CK-MB
   -          Nitro and MS PRN pain
   -          Transfuse for goal HCT > 30
   -          BB for goal HR 60-70
   -          Hold Plavix given UGIB, start ASA 325 mg as above
   # Shoulder pain: Pt with chronic R shoulder pain.
   - Trying lidocaine patch
   #  DMII
 Patient with history of DM.
   -          FSBG QID
   -          HISS
   #  PVD
 hold Plavix, restart ASA as above
   # HTN
 hold antihypertenisives.  BP WNL for now. Unclear which meds he
   takes
   -          contact home nurse regarding home meds
   # Hyperkalemia
 Patient with hyperkalemia on arrival,  possible [**1-23**]
   ACEi and hypovolemia
   -          cont to monitor
   -          Kayexalate x 1
   - Hold K wasting drugs
   # ARF
 Cr of 1.9 on admission, likely in setting of hypovolemia from
   UGIB, improved on arrival to ICU
   -          transfuse as above
   -          IVF boluses PRN
   - Improving with fluids
   ICU Care
   Nutrition: Clears
   Glycemic Control:  SSI
   Lines:
   20 Gauge - [**2196-8-6**] 12:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Called out

2196-08-08 11:45:00 Physician Attending Progress Note
Chief Complaint: UGIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo man with h/o CAD, multiple PCIs.  P/W hematemesis.  EGD showed
   ulcers with visible vessel that was clipped.  Had troponin leak and
   chest pain responsive to s/l NTG.  Has improved and called out.
   24 Hour Events:
 EKG - At [**2196-8-7**] 08:00 AM
 EKG - At [**2196-8-7**] 02:00 PM
   given 0.3mg SL nitro with good effect.
 CHEST PAIN - At [**2196-8-7**] 02:00 PM
 CALLED OUT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-8-7**] 08:37 PM
   Other medications:
   SSI
   lidocaine
   [**Year (4 digits) **]
   isordil
   vitamin E and  D
   seroquel
   trazadone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Flowsheet Data as of  [**2196-8-8**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (98
   Tcurrent: 36.3
C (97.4
   HR: 79 (63 - 106) bpm
   BP: 120/48(65) {84/37(48) - 175/77(124)} mmHg
   RR: 15 (13 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
                  Total In:
                                                                  2,686 mL
                                                                    480 mL
   PO:
                                                                  1,190 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    504 mL
   Blood products:
                                                                    977 mL
   Total out:
                                                                  1,125 mL
                                                                    375 mL
   Urine:
                                                                  1,125 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,561 mL
                                                                    105 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   45 K/uL
   180 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.9 mEq/L
   18 mg/dL
   109 mEq/L
   142 mEq/L
   31.4 %
   2.2 K/uL
        [image002.jpg]
                             [**2196-8-5**]  11:53 PM
                             [**2196-8-6**]  01:10 AM
                             [**2196-8-6**]  05:12 AM
                             [**2196-8-6**]  08:39 AM
                             [**2196-8-6**]  11:12 AM
                             [**2196-8-6**]  03:08 PM
                             [**2196-8-6**]  09:22 PM
                             [**2196-8-7**]  08:50 AM
                             [**2196-8-7**]  03:55 PM
                             [**2196-8-8**]  02:21 AM
   WBC
   3.8
   4.6
   3.2
   2.7
   2.2
   Hct
   26.9
   30.0
   29.1
   29.6
   28.7
   33.3
   32.3
   31.4
   Plt
   69
   64
   55
   49
   63
   54
   45
   Cr
   1.6
   1.5
   1.4
   1.3
   1.1
   TropT
   0.01
   0.08
   0.16
   0.22
   0.18
   0.16
   Glucose
   164
   241
   168
   180
   Other labs: PT / PTT / INR:15.0/31.8/1.3, CK / CKMB /
   Troponin-T:67/7/0.16, ALT / AST:20/29, Alk Phos / T Bili:80/0.9,
   Albumin:3.2 g/dL, LDH:194 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   UGIB: s/p clipping of bleeding ulcer.  no further melena or
   hematemesis.  Continue PPI
   CAD: Restarted [**Last Name (LF) **], [**First Name3 (LF) **] discuss with cardiologist about plavix.
   Shoulder Pain:
   DM II: stable
   Acute renal failure: Resolved
   Will try to walk around, if stable, consider discharge home.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-8-6**] 12:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :D/C Home
   Total time spent: 35 minutes